US06486184B2
A solution of rac-(cyclohex-2-enyloxy)-(3,4-dichloro-phenyl)-acetic acid (89 mg, 0.28 mmol) in dichloromethane (10 mL) was treated with BOP reagent (187 mg, 0.42 mmol), triethylamine (0.12 mL, 0.85 mmol), and 2-aminothiazole (42 mg, 0.42 mmol) at 25° C. The resulting brownish-orange solution was then stirred 16 h at 25° C, then was diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (1×10 mL), 1N sodium hydroxide solution (1×10 mL), 1N hydrochloric acid (1×10 mL), and brine (1×10 mL), then were dried over sodium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 95/5 hexanes/ethyl acetate) to provide rac-(cyclohex-2-enyloxy)-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide (99 mg, 92% yield) as a white foam: EI-HRMS m/e calcd for C17H16Cl2O2N2S (M+) 382.0309, found 382.0308.

reactant | rac-(cyclohex-2-enyloxy)-(3,4-dichloro-phenyl)-acetic acid | 0.28 mmol, 89 mg | C1(C=CCCC1)OC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C14H14Cl2O3
reactant | BOP reagent | 0.42 mmol, 187 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.85 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.42 mmol, 42 mg | NC=1SC=CN1 | C3H4N2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | rac-(cyclohex-2-enyloxy)-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide | 99 mg, 92% yield | C1(C=CCCC1)OC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)Cl)Cl | C17H16Cl2N2O2S
